US04636521
(iii) N-[(4-Hydrazinophenyl)methyl]methanesulphonamide, hydrochloride
A solution of sodium nitrite (0.3 g) in water (3 ml) was added, over 15 min. to a stirred suspension of N-[(4-aminophenyl)methyl]methanesulphonamide (0.7 g ) in concentrated hydrochloric acid (3 ml) and water (4 ml) keeping the temperature below 0°. After 1 h, the resulting suspension was added, over 1 min. to a stirred, ice-cooled solution of sodium acetate (3.2 g) and sodium sulphite (1.8 g) in water (20 ml) containing ice (5 g). The orange mixture was stirred for a further 30 min. then at room temperature for 1.5 h, and then warmed on the steam bath for 20 min. The mixture was cooled, concentrated hydrochloric acid (15 ml) added and the mixture warmed on the steam bath for 0.5 h. The solvent was evaporated in vacuo and the residue re-evaporated with absolute ethanol (2×50 ml). The residue was extracted with absolute ethanol (50 ml). The extract was evaporated in vacuo and the residue re-evaporated with ethanol (20 ml) to leave a brown oil, which partially crystallised after standing overnight. Ethanol (1 ml) was added and the title compound filtered off as light tan crystals (0.1 g) m.p. 165°-70° (dec.)

reactant | sodium nitrite | 0.3 g | N(=O)[O-].[Na+]
reactant | N-[(4-aminophenyl)methyl]methanesulphonamide | 0.7 g | NC1=CC=C(C=C1)CNS(=O)(=O)C | C8H12N2O2S
reactant | sodium acetate | 3.2 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulphite | 1.8 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | N-[(4-Hydrazinophenyl)methyl]methanesulphonamide, hydrochloride | Cl.N(N)C1=CC=C(C=C1)CNS(=O)(=O)C | InChI=1S/C8H13N3O2S.ClH/c1-14(12,13)10-6-7-2-4-8(11-9)5-3-7;/h2-5,10-11H,6,9H2,1H3;1H
